US08877801B2
To a solution of (5-((6-methoxy-2-(4-methoxyphenyl)-benzo[b]thiophen-3-yl)oxy)pyridin-2-yl)methanol (0.266 g, 0.676 mmol) in DCM (3.38 mL) was added manganese dioxide (1.176 g, 13.52 mmol) and the reaction was stirred at room temperature for 48 h. Upon completion the reaction was filtered over Celite™ and concentrated in vacuo to afford crude 5-((6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl)oxy)picolinaldehyde which was used without further purification. LC/MS (m/z, MH+): 392.2.

reactant | (5-((6-methoxy-2-(4-methoxyphenyl)-benzo[b]thiophen-3-yl)oxy)pyridin-2-yl)methanol | 0.676 mmol, 0.266 g | COC=1C=CC2=C(SC(=C2OC=2C=CC(=NC2)CO)C2=CC=C(C=C2)OC)C1 | C22H19NO4S
solvent | DCM | 3.38 mL | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 13.52 mmol, 1.176 g | [O-2].[O-2].[Mn+4]
product | 5-((6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl)oxy)picolinaldehyde | COC=1C=CC2=C(SC(=C2OC=2C=CC(=NC2)C=O)C2=CC=C(C=C2)OC)C1 | C22H17NO4S
